US08071807B2
(3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester and 2-fluoro-5-nitrobenzaldehyde were reacted according to the procedure described in Example 21, Step 5, to give [3-(2-formyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester.

reactant | (3-Hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)O)=O | C11H11F3O3
reactant | 2-fluoro-5-nitrobenzaldehyde | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
product | [3-(2-formyl-4-nitro-phenoxy)-5-trifluoromethyl-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OC1=C(C=C(C=C1)[N+](=O)[O-])C=O)=O | C18H14F3NO6
